US06864265B2
Preparation of 3-cyano-2-pyridinecarboxaldehyde
To a solution of 3-cyano-2-picoline (166 mg, 1.41 mmol) in dioxane (3 mL) was added water (0.2 mL) and selenium(IV) oxide (228 mg, 2.05 mmol) and the mixture stirred at reflux overnight. The reaction mixture was concentrated under reduced pressure and purified by column chromatography on silica gel (Hexanes/ether, 3:1 then 1:1) to afford the title compound (18 mg, 10%) as a pale yellow solid. 1H NMR (CDCl3): δ7.69 (dd, 1H, J=9,6 Hz), 8.20 (d, 1H, J=9 Hz), 9.00 (d, 1H, J=3 Hz), 10.13 (s, 1H).

reactant | 3-cyano-2-picoline | 1.41 mmol, 166 mg | C(#N)C=1C(=NC=CC1)C | C7H6N2
reactant | water | 0.2 mL | O | H2O
reactant | selenium(IV) oxide | 2.05 mmol, 228 mg | [Se](=O)=O | O2Se
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 3-cyano-2-pyridinecarboxaldehyde | 18 mg, 10% | C(#N)C=1C(=NC=CC1)C=O | C7H4N2O
